US05739351
3.05 g of p-toluenesulphonyl chloride are added to a solution of 3.4 g of (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol and 2.24 cm3 of triethylamine in 150 cm3 of dichloromethane. The mixture is stirred at 20° C. for 20 hours, washed with 100 cm3 of water, dried over magnesium sulphate and then concentrated to dryness under reduced pressure (2.7 kPa). 4.1 g of (3aRS,4RS,6SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-6-tosylmethylperhydroisoindol-4-ol are obtained in the form of a thick white foam.

reactant | p-toluenesulphonyl chloride | 3.05 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | (3aRS,4RS,6SR,7aSR)-6-hydroxymethyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]perhydroisoindol-4-ol | 3.4 g | OCC1CC(C2CN(CC2C1)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC | C25H31NO5
reactant | triethylamine | 2.24 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 150 cm3 | ClCCl | CH2Cl2
product | (3aRS,4RS,6SR,7aSR)-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-6-tosylmethylperhydroisoindol-4-ol | 4.1 g | COC1=C(C=CC=C1)C1(C2CN(CC2CC(C1)CS(=O)(=O)C1=CC=C(C)C=C1)C(CC1=C(C=CC=C1)OC)=O)O | C32H37NO6S
